US06951875B2
b) 2-Bromo-6-ethyl-4-nitro-pyridine 1-oxide
With ice bath cooling HNO3 (100%, 25 ml) was added dropwise to 2-bromo-6-ethyl-pyridine 1-oxide (20.0 g, 99 mmol), followed by H2SO4 (98%, 17 ml). The mixture was stirred at 90° C. for 90 min and then cooled to rt. Crushed ice (500 g) was added and the mixture was made basic (pH 12) using 28% NaOH solution. After extraction with AcOEt (4×250 ml) the combined organic phases were dried (Na2CO3) and evaporated to give 15.9 g (65%) of a yellow Solid mass which was directly used in the next step

reactant | HNO3 | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-bromo-6-ethyl-pyridine 1-oxide | 99 mmol, 20.0 g | BrC1=[N+](C(=CC=C1)CC)[O-] | C7H8BrNO
reactant | H2SO4 | 17 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
product | 2-Bromo-6-ethyl-4-nitro-pyridine 1-oxide | 15.9 g, 65% | BrC1=[N+](C(=CC(=C1)[N+](=O)[O-])CC)[O-] | C7H7BrN2O3
